US09127003B2
Intermediate 18: Methyl 4-(methylamino)-3-nitrobenzoate
Methylamine (2M in THF) (23.19 mL, 46.4 mmol) was added to a solution of methyl 4-chloro-3-nitrobenzoate (5 g, 23.19 mmol) (available, for example, from Lancaster Synthesis Ltd.) in N,N-dimethylformamide (DMF) (8 mL) at rt under nitrogen. The reaction mixture was heated to 80° C. and stirred overnight. LCMS showed major peak product, but reaction had not gone to completion. Further methylamine (2M in THF, 10 ml) was added and the reaction heated to 90° C. for 6 h. Further methylamine (2M in THF, 6 ml) was added and the reaction stirred for 1 h at rt and 72 h at 70° C. Further methylamine (2M in THF, 10 ml) was added and the reaction heated to 80° C. for 3 h. The reaction was allowed to cool to rt and then the product was precipitated by the addition of water (50 mL). The resultant suspension was cooled to 0° C. and then filtered. The residue was washed with further water (3×25 mL) and allowed to dry on the filter pad for 15 mins. The solid was collected and dried in vacuo to afford the title compound as a yellow solid (4.54 g, 21.60 mmol, 93% yield).

reactant | Methylamine | 46.4 mmol, 2M, 23.19 mL | CN | CH5N
reactant | methyl 4-chloro-3-nitrobenzoate | 23.19 mmol, 5 g | ClC1=C(C=C(C(=O)OC)C=C1)[N+](=O)[O-] | C8H6ClNO4
reactant | methylamine | 2M, 10 ml | CN | CH5N
reactant | methylamine | 2M, 6 ml | CN | CH5N
reactant | methylamine | 2M, 10 ml | CN | CH5N
solvent | N,N-dimethylformamide | 8 mL | CN(C=O)C | C3H7NO
product | Methyl 4-(methylamino)-3-nitrobenzoate | 21.60 mmol, 4.54 g, 93% yield | CNC1=C(C=C(C(=O)OC)C=C1)[N+](=O)[O-] | C9H10N2O4
